US05905071
15a N-[2-(N-Carbobenzoxy-glycyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-octadecanamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-octadecanamide and N-carbobenzoxy-glycine.

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-octadecanamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C44H87N3O6
reactant | N-carbobenzoxy-glycine | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
product | N-[2-(N-Carbobenzoxy-glycyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-octadecanamide | C(=O)(OCC1=CC=CC=C1)NCC(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C54H96N4O9
